data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(C)c([Si](C)(C)C)c([Si](C)(C)C)c(F)c1=C", "products": "Cc1c2c(c(F)c([Si](C)(C)C)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(C(=O)C2C3CCC2C3)ccc1F", "products": "COc1cc([C]([O])C2C3CCC2C3)ccc1F"}, {"reactants": "COc1cc([C]([O])C2C3CCC2C3)ccc1F", "products": "COc1cc(C([O])=CC2C[CH]CC2)ccc1F"}, {"reactants": "COc1cc(C([O])=CC2C[CH]CC2)ccc1F", "products": "COc1cc(C(O)=CC2C=CCC2)ccc1F"}, {"reactants": "COc1cc(C(O)=CC2C=CCC2)ccc1F", "products": "COc1cc(C(=O)CC2C=CCC2)ccc1F"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cccc(C(=O)C2C3CCC2C3)c1", "products": "COc1cccc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1cccc([C]([O])C2C3CCC2C3)c1", "products": "COc1cccc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1cccc(C([O])=CC2C[CH]CC2)c1", "products": "COc1cccc(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1cccc(C(O)=CC2C=CCC2)c1", "products": "COc1cccc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(F)c(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1cc(F)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1cc(F)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1cc(F)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1cc(F)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(F)ccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(F)ccc2Cl)C(=N)C=C1", "products": "COc1cc(F)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl"}, {"reactants": "COc1cc(F)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl", "products": "COc1cc(F)c2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(F)c2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(F)c2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(F)c2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(F)c2c(c1Cl)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(F)c2c(c1Cl)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(F)c2[nH]cc(-c3ccccc3)c2c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(C)COC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OCC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OCC(C)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OCC2(C)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OCC2(C)O3)cc1", "products": "CC12COC(F)(O1)C1C(=O)C12"}, {"reactants": "CC12COC(F)(O1)C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C1C1(F)OCC2(C)O1"}, {"reactants": "COC1([O-])C2C1C1(F)OCC2(C)O1.CO", "products": "COC(=O)C1CC2(C)COC1(F)O2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(Cl)c(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "Cc1cc(Cl)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "Cc1cc(Cl)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "Cc1cc(Cl)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cc(Cl)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cc(Cl)c2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C", "products": "COc1c2c(c(Cl)c([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)ccc1Cl", "products": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)ccc1Cl"}, {"reactants": "COc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)ccc1Cl", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)c(OC)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)c(OC)c1", "products": "COc1cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)ccc1Cl"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)C)c(Br)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(Br)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(Br)c1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)C)c([Si](C)(C)C)c(Br)c4CC[C@H]3[C@@H]1CCC2=O"}]}
